US08314239B2
N-(6-(7-azabicyclo[2.2.1]heptan-7-yl)-4-methylpyridin-3-yl)-5-methyl-4-oxo-1,4-dihydroquinoline-3-carboxamide was dissolved in methanol (2 mL) and treated with 2 M HCl in ether (295.3 μL of 2 M, 0.5906 mmol). The solution was evaporated to provide N-(6-(7-azabicyclo[2.2.1]heptan-7-yl)-4-methylpyridin-3-yl)-5-methyl-4-oxo-1,4-dihydroquinoline-3-carboxamide hydrochloride. 1H NMR (400.0 MHz, DMSO-d6) δ 12.71 (s, 1H), 12.12 (s, 1H), 8.78 (s, 1H), 8.74 (s, 1H), 7.63-7.59 (m, 1H), 7.54 (d, J=8.3 Hz, 1H), 7.22 (d, J=7.1 Hz, 1H), 6.81 (s, 1H), 4.44 (s, 2H), 2.91 (s, 3H), 2.28 (s, 3H), 1.65 (d, J=7.2 Hz, 4H), 1.42 (d, J=6.8 Hz, 4H).

reactant | N-(6-(7-azabicyclo[2.2.1]heptan-7-yl)-4-methylpyridin-3-yl)-5-methyl-4-oxo-1,4-dihydroquinoline-3-carboxamide | C12CCC(CC1)N2C2=CC(=C(C=N2)NC(=O)C2=CNC1=CC=CC(=C1C2=O)C)C | C23H24N4O2
reactant | HCl | 2 M | Cl | ClH
reactant | ether | 0.5906 mmol, 2 M, 295.3 μL | CCOCC | C4H10O
solvent | methanol | 2 mL | CO | CH4O
product | N-(6-(7-azabicyclo[2.2.1]heptan-7-yl)-4-methylpyridin-3-yl)-5-methyl-4-oxo-1,4-dihydroquinoline-3-carboxamide hydrochloride | Cl.C12CCC(CC1)N2C2=CC(=C(C=N2)NC(=O)C2=CNC1=CC=CC(=C1C2=O)C)C | InChI=1S/C23H24N4O2.ClH/c1-13-4-3-5-18-21(13)22(28)17(11-24-18)23(29)26-19-12-25-20(10-14(19)2)27-15-6-7-16(27)9-8-15;/h3-5,10-12,15-16H,6-9H2,1-2H3,(H,24,28)(H,26,29);1H
